US07700623B2
To an acetic acid (10 mL) suspension of 1.07 g of 4-{3-[4-(3-{4-[amino(hydroxyimino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}-N′-hydroxybenzamidine was added 0.64 mL of acetic anhydride at room temperature, which was then stirred at room temperature for 40 minutes. To this mixture was added 0.10 g of 5% palladium-carbon, which was then stirred under hydrogen atmosphere for 2 hours and 15 minutes. Insoluble matter was filtered off before adding 4 mL of 6.0 mol/L hydrochloric acid, and insoluble matter was then filtered off, followed by distilling off the solvent under reduced pressure. A 5.0 mol/L sodium hydroxide aqueous solution was added to the resultant residue to adjust the pH to 12.5, followed by collecting the solid matter by filtration to provide 0.61 g of 4-{3-[4-(3-{4-[amino(imino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}benzamidine as white solid form.

reactant | 4-{3-[4-(3-{4-[amino(hydroxyimino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}-N′-hydroxybenzamidine | 1.07 g | NC(C1=CC=C(OCCCC2CCN(CC2)CCCOC2=CC=C(C(=NO)N)C=C2)C=C1)=NO | C25H35N5O4
reactant | acetic anhydride | 0.64 mL | C(C)(=O)OC(C)=O | C4H6O3
catalyst | palladium-carbon | 0.10 g | [C].[Pd]
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 4-{3-[4-(3-{4-[amino(imino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}benzamidine | 0.61 g | NC(C1=CC=C(OCCCC2CCN(CC2)CCCOC2=CC=C(C(=N)N)C=C2)C=C1)=N | C25H35N5O2
